US09085555B2
To a solution of (S)-2,5-dihydro-pyrrole-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester (6.14 g, 20.2 mmol) were added 3-chloroperbenzoic acid (6.99 g, 40.5 mmol) and 4,4′ thiobis(6-tert-butyl-m cresol) (0.726 g, 2.02 mmol). The mixture was refluxed under nitrogen atmosphere overnight then an additional batch of 3-chloroperbenzoic acid (6.99 g, 40.5 mmol) and 4,4′ thiobis(6-tert-butyl-m cresol) (0.726 g, 2.02 mmol) was added. Refluxing was continued for 24 h. The reaction mixture was diluted with CH2Cl2, washed with sodium metabisulphite aqueous (5%), saturated aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated. The diastereomeric epoxides in a ratio of 65/35 (determined by NMR on the crude mixture) were separated by flash column chromatography (c-hexane to c-hexane/EtOAc 4:1) to give (1R,2S,5S)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-benzyl ester 3-tert-butyl ester: TLC, Rf (c-hexane/EtOAc 4:1)=0.20; MS (LC/MS): 220 [MH−Boc]+, 342 [M+Na]+; tR (HPLC conditions f): 2.14 min and (1S,2S,5R)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-benzyl ester 3-tert-butyl ester: TLC, Rf (c-hexane/EtOAc 4:1)=0.15; MS (LC/MS): 220 [MH−Boc]+, 342 [M+Na]+; tR (HPLC conditions f): 2.03 min.

reactant | (S)-2,5-dihydro-pyrrole-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 20.2 mmol, 6.14 g | C(C)(C)(C)OC(=O)N1[C@@H](C=CC1)C(=O)OCC1=CC=CC=C1 | C17H21NO4
reactant | 3-chloroperbenzoic acid | 40.5 mmol, 6.99 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,4′ thiobis(6-tert-butyl-m cresol) | 2.02 mmol, 0.726 g | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
reactant | 3-chloroperbenzoic acid | 40.5 mmol, 6.99 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,4′ thiobis(6-tert-butyl-m cresol) | 2.02 mmol, 0.726 g | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (1R,2S,5S)-6-oxa-3-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-benzyl ester 3-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2O[C@H]2C1)C(=O)OCC1=CC=CC=C1 | C17H21NO5
